US04673746
To a solution of o-fluorobenzoyl chloride (47.6 g) in 100 ml dichloromethane is added AlCl3 (40.0 g) portionwise, in about thirty minutes. To this resultant dark solution is added dropwise a solution of 1-chloro-3,5-dimethoxybenzene (52.0 g) in 120 ml dichloromethane, in fifteen minutes. After stirring at ambient temperature for four hours, the mixture is poured into one liter iced-dilute HCl solution and then stirred for 30 minutes. The organic layer is collected, evaporated to an oil, which is dissolved into ether, washed with water, dilute NaOH solution, water, then dried (saturated NaCl, anhydrous MgSO4). After filtering, the solvent is evaporated to a solid, which is purified by silica gel, eluted with dichloromethane to yield 2-chloro-4,6-dimethoxy-2'-fluorobenzophenone, mp 88°-92° C.

reactant | o-fluorobenzoyl chloride | 47.6 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | AlCl3 | 40.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1-chloro-3,5-dimethoxybenzene | 52.0 g | ClC1=CC(=CC(=C1)OC)OC | C8H9ClO2
reactant | HCl | one liter | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 2-chloro-4,6-dimethoxy-2'-fluorobenzophenone | ClC1=C(C(=O)C2=C(C=CC=C2)F)C(=CC(=C1)OC)OC | C15H12ClFO3
